*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: 2to4_decoder_static_tb
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Sun Apr  6 17:12:59 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv in out
m0 out in vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m1 out in gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
.ends inv

********************************************************************************
* Library          : group8
* Cell             : nand
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt nand a b y
m1 net4 b gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m0 y a net4 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m3 y b vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m2 y a vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends nand

********************************************************************************
* Library          : group8
* Cell             : nor
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt nor a b y
m1 y b gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m0 y a gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m3 net11 a vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m2 y b net11 pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends nor

********************************************************************************
* Library          : group8
* Cell             : 2to4_decoder_static
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt _2to4_decoder_static bl0 bl0_bar bl1 bl1_bar bl2 bl2_bar bl3 bl3_bar in0
+  in0bar op0 op0bar rs0 rs0bar rs1 rs1bar ws0 ws0bar ws1 ws1bar
m70 bl0_bar w0 in0bar nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m71 bl0 w0 in0 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m72 bl1_bar w1 in0bar nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m73 bl1 w1 in0 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m74 bl2_bar w2 in0bar nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m75 bl2 w2 in0 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m76 bl3_bar w3 in0bar nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m77 bl3 w3 in0 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
xi65 net192 w3 inv
xi64 net189 w2 inv
xi67 net200 r1 inv
xi68 net203 r2 inv
xi63 net186 w1 inv
xi62 net183 w0 inv
xi69 net241 r3 inv
xi66 net197 r0 inv
xi57 ws1 ws0 net192 nand
xi56 ws0bar ws1 net189 nand
xi55 ws1bar ws0 net186 nand
xi54 ws0bar ws1bar net183 nand
xi61 rs0bar rs1bar net241 nor
xi60 rs1bar rs0 net203 nor
xi59 rs0bar rs1 net200 nor
xi58 rs1 rs0 net197 nor
m85 op0bar r0 bl0_bar pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m84 op0 r0 bl0 pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m83 op0bar r1 bl1_bar pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m82 op0 r1 bl1 pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m78 op0 r3 bl3 pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m79 op0bar r3 bl3_bar pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m80 op0 r2 bl2 pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m81 op0bar r2 bl2_bar pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends _2to4_decoder_static

********************************************************************************
* Library          : group8
* Cell             : 2to4_decoder_static_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi87 net294 net286 inv
xi88 net296 net288 inv
xi100 net304 net303 inv
v98 vdd! gnd! dc=0.8
v91 net294 gnd! dc=0 pulse ( 0 0.8 0 5p 5p 40p 100p )
v92 net296 gnd! dc=0 pulse ( 0 0.8 0 5p 5p 90p 200p )
v101 net304 gnd! dc=0 pulse ( 0 0 )
xi86 bl0 bl0b bl1 bl1b bl2 bl2b bl3 bl3b net304 net303 net275 net272 net283
+ net282 net285 net284 net294 net286 net296 net288 _2to4_decoder_static


.ic  v(bl0b)=0  v(bl0)=0.8  v(bl1b)=0  v(bl1)=0.8  v(bl2b)=0  v(bl2)=0.8
+ v(bl3b)=0  v(bl3)=0.8






.tran 0.1p 300p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(bl0) v(bl0b) v(bl1) v(bl1b) v(bl2) v(bl2b) v(bl3) v(bl3b)
+ v(xi86.w0) v(xi86.w1) v(xi86.w2) v(xi86.w3) v(net286) v(net288) v(net294)
+ v(net296) v(net303) v(net304)








.end
