*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: 2to4decodermux_tb
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/n/nbandeh/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/n/nbandeh/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Tue Apr  1 16:13:29 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv in out
m0 out in vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m1 out in gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends inv

********************************************************************************
* Library          : group8
* Cell             : 2to4decodermux
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt _2to4decodermux a0 a1 bl0 bl0bar bl1 bl1bar bl2 bl2bar bl3 bl3bar bl4
+ bl4bar bl5 bl5bar bl6 bl6bar bl7 bl7bar bl8 bl8bar bl9 bl10 bl10bar bl11
+ bl11bar bl12 bl12bar bl13 bl13bar bl14 bl14bar bl15 bl15bar blbar p0 p1 p2 p3
m39 net234 a0 p3 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m38 net233 net152 p3 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m37 net230 a0 p2 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m36 net228 net152 p2 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m35 net226 a0 p1 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m34 net224 net152 p1 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m33 net222 a0 p0 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m32 net220 net152 p0 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m31 bl3 a1 net222 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m30 bl5 a1 net224 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m29 bl7 a1 net226 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m28 bl9 a1 net228 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m27 bl11 a1 net230 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m26 bl13 a1 net233 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m25 bl15 a1 net234 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m24 bl1bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m23 bl3bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m22 bl5bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m21 bl7bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m20 blbar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m19 bl11bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m18 bl13bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m17 bl15bar a1 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m16 bl1 a1 net220 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m15 bl14bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m14 bl14 net198 net234 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m13 bl12bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m12 bl12 net198 net233 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m11 bl10bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m10 bl10 net198 net230 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m9 bl8bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m8 bl8 net198 net228 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m7 bl6bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m6 bl6 net198 net226 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m5 bl4bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m4 bl4 net198 net224 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m3 bl2bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m2 bl2 net198 net222 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m1 bl0bar net198 gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m0 bl0 net198 net220 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
xi41 a1 net198 inv
xi40 a0 net152 inv
.ends _2to4decodermux

********************************************************************************
* Library          : group8
* Cell             : 2to4decodermux_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 a0 a1 net77 net76 net92 net74 net73 net72 net71 net70 net69 net68 net67
+ net66 net65 net64 net63 net62 net61 net60 net59 net58 net57 net56 net55 net91
+ net53 net52 net51 net50 net49 net48 net47 net46 net85 net83 net87 net89
+ _2to4decodermux
v13 net54 gnd! dc=0 pulse ( 0 0 0 0 0 100p 100p )
v11 net75 gnd! dc=0 pulse ( 0.8 0.8 0 0 0 40p 100p )
v2 a1 gnd! dc=0 pulse ( 0 0.8 10p 5p 5p 90p 200p )
v1 a0 gnd! dc=0 pulse ( 0 0.8 10p 5p 5p 40p 100p )
v19 net89 gnd! dc=0.8
v16 net85 gnd! dc=0.8
v17 net83 gnd! dc=0
v8 vdd! gnd! dc=0.8
v18 net87 gnd! dc=0.8


.ic  v(xi0.bl0)=0  v(xi0.bl0bar)=0  v(xi0.bl1)=1  v(xi0.bl1bar)=1  v(xi0.bl2)=0
+ v(xi0.bl2bar)=0  v(xi0.bl3)=0  v(xi0.bl3bar)=0  v(xi0.bl4)=0  v(xi0.bl4bar)=0
+ v(xi0.bl5)=0  v(xi0.bl5bar)=0  v(xi0.bl6)=0  v(xi0.bl6bar)=0  v(xi0.bl7)=0
+ v(xi0.bl7bar)=0  v(xi0.bl8)=0  v(xi0.bl8bar)=0  v(xi0.bl9)=0  v(xi0.blbar)=0
+ v(xi0.bl10)=0  v(xi0.bl10bar)=0  v(xi0.bl11)=0  v(xi0.bl11bar)=0
+ v(xi0.bl12)=0  v(xi0.bl12bar)=0  v(xi0.bl13)=0  v(xi0.bl13bar)=0
+ v(xi0.bl14)=0  v(xi0.bl14bar)=0  v(xi0.bl15)=0  v(xi0.bl15bar)=0






.tran 0.1p 100p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(a0) v(a1) v(xi0.bl0) v(xi0.bl10) v(xi0.bl12) v(xi0.bl15)
+ v(xi0.bl3) v(xi0.bl5) v(xi0.bl6) v(xi0.bl9) v(xi0.p0) v(xi0.p1) v(xi0.p2)
+ v(xi0.p3)








.end
